US04200580
A mixture of 2-n-octylpropane-1,3-diol (5.64 g, 0.03 m), 4-hydroxybenzaldehyde (3.66 g, 0.03 m), benzene (60 ml) and a catalytic amount of 4-toluenesulfonic acid was azeotropically refluxed until no more water was collected (about 16 hours). The solvent was evaporated and the residue was crystallized from 50% aqueous ethanol to yield p-(5-n-octyl-1,3-dioxan-2-yl)phenol (4 g, 48%) mp 96°-97° C.

reactant | 2-n-octylpropane-1,3-diol | 5.64 g | C(CCCCCCC)C(CO)CO | C11H24O2
reactant | 4-hydroxybenzaldehyde | 3.66 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | benzene | 60 ml | C1=CC=CC=C1 | C6H6
reactant | 4-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | p-(5-n-octyl-1,3-dioxan-2-yl)phenol | 4 g, 48% | C(CCCCCCC)C1COC(OC1)C1=CC=C(C=C1)O | C18H28O3
